US07910613B2
86: N-[5-(5-Methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-acetamide
Prepared from 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine and acetyl chloride.

reactant | 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine | CC1=NC(=NO1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C12H10N4OS
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-[5-(5-Methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-acetamide | CC1=NC(=NO1)C1=C(N=C(S1)NC(C)=O)C1=CC=CC=C1 | C14H12N4O2S
